US08664417B2
Preparation of 4-Chlorobutylferrocene II
A cold solution of freshly distilled trifluoroacetic acid (5 ml) was added to a solution of the ferrocene derivative, 1-Oxo-4-chlorobutylferrocene I, (5 g, 17.2 mmole) in dry dichloromethane (15 ml) at 0° C. Sodium borohydride (0.78 g) was added to the reaction mixture at 0° C. and the reaction mixture was stirred overnight at this temperature. After completion of the reaction as indicated from TLC, the reaction was quenched by adding water (50 ml) and the mixture was extracted with dichloromethane (2×25 ml).

reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ferrocene | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | Sodium borohydride | 0.78 g | [BH4-].[Na+]
reactant | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 4-Chlorobutylferrocene | ClCCCC[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C9H12Cl.C5H5.Fe/c10-8-4-3-7-9-5-1-2-6-9;1-2-4-5-3-1;/h1-2,5-6H,3-4,7-8H2;1-5H;/q2*-1;+2
